US08106043B2
4-(2-(1-Methylpyrrolidin-2-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-amine:
A solution of 4-(2-(1-methylpyrrolidin-2-yl)ethyl)-7-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine (0.82 g, 2.67 mmol) in methanol (10 mL) under an argon atmosphere was treated with hydrazine hydrate (1.29 mL, 26.7 mmol) and a small amount of Raney Nickel (˜0.15 g, 2.67 mmol). The reaction was transferred to a pre-heated oil bath at 65° C. After 3 hours, the reaction was poured over a pad of Celite, rinsing with methanol. The filtrate was concentrated, and the residue was poured over a pad of silica gel. The silica gel pad was rinsed with 1:9 (2M NH3 in methanol):dichloromethane (200 mL). The filtrate was concentrated, dried under reduced pressure, and carried on to the next step. 1H-NMR (DMSO-d6) δ 6.48 (brd, J=9.3 Hz, 1H), 6.27-6.24 (m, 2H), 4.42 (brs, 2H), 3.33-3.29 (m, 2H), 3.13-3.06 (m, 2H), 2.99-2.96 (m, 2H), 2.96-2.90 (m, 1H), 2.19 (s, 3H), 2.06-1.97 (m, 2H), 1.96-1.78 (m, 2H), 1.63-1.60 (m, 2H), 1.56-1.40 (m, 2H); ESI-MS (m/z, %): 278 (MH+, 100).

reactant | 4-(2-(1-methylpyrrolidin-2-yl)ethyl)-7-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine | 2.67 mmol, 0.82 g | CN1C(CCC1)CCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C15H21N3O2S
reactant | hydrazine hydrate | 26.7 mmol, 1.29 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
catalyst | Raney Nickel | 2.67 mmol, ˜0.15 g | [Ni] | Ni
product | 4-(2-(1-Methylpyrrolidin-2-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-amine | CN1C(CCC1)CCN1C2=C(SCC1)C=C(C=C2)N | C15H23N3S
